US04216100
2,5-bis(n-hexylthio)-1,3,4-thiadiazole was prepared in over 70% yield by reaction of 50 g. (0.32 mole) commercial 2,5-dimercapto-1,3,4-thiadiazole with 26.4 g (0.66 mole) sodium hydroxide in 400 ml refluxing isopropanol followed by the addition of 110 g (0.66 mole) 1-bromohexane. After removal of the solid precipitate (sodium bromide), 71.7 g of product was isolated by vacuum stripping. The product was used without further purification.

reactant | 2,5-dimercapto-1,3,4-thiadiazole | 0.32 mole | SC=1SC(=NN1)S | C2H2N2S3
reactant | sodium hydroxide | 0.66 mole, 26.4 g | [OH-].[Na+]
reactant | 1-bromohexane | 0.66 mole, 110 g | BrCCCCCC | C6H13Br
solvent | isopropanol | C(C)(C)O | C3H8O
product | 2,5-bis(n-hexylthio)-1,3,4-thiadiazole | 70% yield | C(CCCCC)SC=1SC(=NN1)SCCCCCC | C14H26N2S3
